US06103738
(a) 4-Methanesulfonamidophthalimide
Methanesulfonylchloride (2.6 ml, 0.034 mol) was added dropwise to a stirred suspension of 4-aminophthalimide (5.0 g, 0.031 mol) in pyridine (50 ml). The mixture was stirred for 48 h under N2 at room temperature, after which time the solid formed was isolated by filtration, washing well with H2O and CH2Cl2 and then dried in vacuo to afford the subtitle compound as a colourless solid (5.67 g, 76%). Rf 0.52 (CH2Cl2/MeOH/0.88NH3 90/10/1, v/v). MS m/z 241 (MH+).

reactant | Methanesulfonylchloride | 0.034 mol, 2.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-aminophthalimide | 0.031 mol, 5.0 g | NC=1C=C2C(C(=O)NC2=O)=CC1 | C8H6N2O2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-Methanesulfonamidophthalimide | 5.67 g, 76% | CS(=O)(=O)NC=1C=C2C(C(=O)NC2=O)=CC1 | C9H8N2O4S
